US07521448B2
Ethylene glycol (30.1 g, 484 mmol), 2-chloropyridine (10.0 g, 88 mmol), powdered potassium hydroxide (9.9 g, 176.13 mmol), and 18-crown-6 ether (9.3 g, 35 mmol) were dissolved in anhydrous toluene (500 mL) under a N2 atmosphere. The reaction mixture was stirred vigorously and heated to reflux. After 48 h, the reaction reached 50% conversion. The reaction mixture was concentrated in vacuo to approximately 100 mL volume then diluted with water (100 mL). After stirring for 0.5 h, the organic layer was separated and the aqueous layer was extracted with CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, and concentrated in vacuo. The crude product was purified by Jones column chromatography (100% hexanes to 50% ethyl acetate/hexanes) to give 2-(pyridin-2-yloxy)ethanol as a dark brown oil containing 15% w/w of 18-crown-6 ether. 1H NMR (d6-DMSO, 400 MHz): δ 8.14 (ddd, J=5.0, 2.0, 1.2 Hz, 1H), 7.68 (ddd, J=9.4, 7.2, 2.4 Hz, 1H), 6.95 (ddd, J=8.0, 4.8, 1.2 Hz, 1H), 6.80 (ddd, J=8.4, 1.0, 1.0 Hz, 1H), 4.83 (t, J=5.6 Hz, 1H), 4.26 (t, J=5.2 Hz, 2H), 3.70 (dt, J=10.4, 5.2 Hz, 2H).

reactant | Ethylene glycol | 484 mmol, 30.1 g | C(CO)O | C2H6O2
reactant | 2-chloropyridine | 88 mmol, 10.0 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | potassium hydroxide | 176.13 mmol, 9.9 g | [OH-].[K+]
reactant | 18-crown-6 ether | 35 mmol, 9.3 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(pyridin-2-yloxy)ethanol | N1=C(C=CC=C1)OCCO | C7H9NO2
